US06660753B2
4-Amino-3-bromo-5-trifluoromethoxybenzoic acid (1.5 g, 5 mmoles) was mixed with ethanol (15 mL) at 0° C. and then concentrated sulfuric acid (2.26 g, 10.2 mmoles) wad added. The sodium nitrite (0.38 g, 5.5 mmoles) water solution (1.2 mL) was added dropwise at 0° C. for 1 hour. After the reaction mixture was warmed to room temperature and then heated to reflux for 45 minutes, water was added. The mixture was extracted with dichloromethane. The dichloromethane layer was dried and concentrated. The residue was dissolved in 1M sodium hydroxide and extracted with ether. The aqueous solution was acidified with 2M HCl to pH=2 to give 3-bromo-5-trifluoromethoxybenzoic acid (1.08 g, 75.5%).

reactant | 4-Amino-3-bromo-5-trifluoromethoxybenzoic acid | 5 mmoles, 1.5 g | NC1=C(C=C(C(=O)O)C=C1OC(F)(F)F)Br | C8H5BrF3NO3
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | sulfuric acid | 10.2 mmoles, 2.26 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 5.5 mmoles, 1.2 mL, 0.38 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-bromo-5-trifluoromethoxybenzoic acid | 1.08 g, 75.5% | BrC=1C=C(C(=O)O)C=C(C1)OC(F)(F)F | C8H4BrF3O3
